US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (443.2 mg, 0.93 mmol), 1-methyl-5-(tributylstannyl)-1H-imidazole-2-carbaldehyde (743.1 mg, 1.86 mmol), dichlorobis(triphenylphosphine)palladium(II) (33.0 mg, 0.047 mmol) and triethylamine (103.2 mg, 1.02 mmol) in 8.0 mL of 1,4-dioxane is heated at 110° C. for 3 hours. After cooling, the mixture is treated with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic phases are washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of 5% ethyl acetate in dichloromethane to 50% ethyl acetate in dichloromethane to provide 222.7 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(2-formyl-1-methyl-1H-imidazol-5-yl)thieno[3,2-b]pyridine-6-carbonitrile as a yellow solid, mp 225-227° C.; 1H NMR (DMSO-d6) δ 3.86 (s, 3H), 4.08 (d, 3H), 7.41 (s, 1H), 7.63 (s, 1H), 7.77 (s, 1H), 7.90 (s, 1H), 8.67 (s, 1H), 9.77 (s, 1H), 9.87 (s, 1H); MS 458.1, 460.1 (M+H)+.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 0.93 mmol, 443.2 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 1-methyl-5-(tributylstannyl)-1H-imidazole-2-carbaldehyde | 1.86 mmol, 743.1 mg | CN1C(=NC=C1[Sn](CCCC)(CCCC)CCCC)C=O
reactant | triethylamine | 1.02 mmol, 103.2 mg | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 8.0 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.047 mmol, 33.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(2-formyl-1-methyl-1H-imidazol-5-yl)thieno[3,2-b]pyridine-6-carbonitrile | 222.7 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CN=C(N2C)C=O | C20H13Cl2N5O2S
